US07652057B2
To a solution of 5-bromomethyl-4-cyclopropyl-2-(4-fluoro-phenyl)-1-methyl-1,2-dihydro-pyrazol-3-one (0.130 g) in acetonitrile (5 mL), was added 4-fluorophenol (0.045 g), caesium carbonate (0.13 g) and potassium iodide (3 crystals). The reaction was stirred overnight at ambient temperature and was then diluted with water and EtOAc. The phases were separated and the aqueous was extracted with further EtOAc. The combined organic phases were washed with further HCl solution, brine and dried with sodium sulfate. Filtration and evaporation of the volatiles in vacuo and purification of the residue via ISCO Combiflash chromatography (using EtOAc/heptane) afforded the desired 4-cyclopropyl-5-(4-fluoro-phenoxymethyl)-2-(4-fluoro-phenyl)-1-methyl-1,2-dihydro-pyrazol-3-one (0.023 g) as a light beige solid. MS (ESI+): 357.0 ([M+H]+).

reactant | 5-bromomethyl-4-cyclopropyl-2-(4-fluoro-phenyl)-1-methyl-1,2-dihydro-pyrazol-3-one | 0.130 g | BrCC1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C1CC1 | C14H14BrFN2O
reactant | 4-fluorophenol | 0.045 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | caesium carbonate | 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-cyclopropyl-5-(4-fluoro-phenoxymethyl)-2-(4-fluoro-phenyl)-1-methyl-1,2-dihydro-pyrazol-3-one | 0.023 g | C1(CC1)C=1C(N(N(C1COC1=CC=C(C=C1)F)C)C1=CC=C(C=C1)F)=O | C20H18F2N2O2
